US04670592
A 50% dispersion of sodium hydride in mineral oil (200 mg.) was added to benzyl alcohol (32.4 g.) and the mixture was stirred until effervescence had ceased. The solution was treated with 2-methyleneglutaronitrile (15.9 g.)and the mixture was kept at room temperature for 24 hours. The reaction mixture was diluted with diethyl ether and the solution was washed three times with water, and then dried and evaporated to dryness to give 2-(benzyloxymethyl)glutaronitrile (32 g.). The crude 2-(benzyloxymethyl)glutaronitrile was reduced with borane-dimethyl sulphide complex in a similar process to that described in Example 1 to give 2-(benzyloxymethyl)pentane-1,5-diamine dihydrochloride, m.p. 159°-161° (after crystallisation from ethanol).

reactant | sodium hydride | [H-].[Na+]
reactant | benzyl alcohol | 32.4 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-methyleneglutaronitrile | C=C(C#N)CCC#N | C6H6N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(benzyloxymethyl)glutaronitrile | 32 g | C(C1=CC=CC=C1)OCC(C#N)CCC#N | C13H14N2O
